### PR TITLE
Polynomials on commutative semirings

### PR DESCRIPTION
**Pull request by lowasser**
This is fairly sparse so far in the sense that there's lots more to do, both for rings (so polynomials can be a left module etc over their ring), and for polynomial multiplication (I have some ideas on how to keep it simple), but this seems like enough to start out with and stabilize to ensure the design looks good.

Addresses #1357 .

### CODE REVIEW

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 1]
```diff
@@ -0,0 +1,530 @@
...
+
+  term-ev-formal-power-series-Commutative-Semiring :
+    (f : formal-power-series-Commutative-Semiring R) →
+    (x : type-Commutative-Semiring R) →
+    sequence (type-Commutative-Semiring R)
+  term-ev-formal-power-series-Commutative-Semiring
+    ( formal-power-series-coefficients-Commutative-Semiring a)
+    ( x)
+    ( n)
+      = mul-Commutative-Semiring R (a n) (power-Commutative-Semiring R n x)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
  term-ev-formal-power-series-Commutative-Semiring
    ( formal-power-series-coefficients-Commutative-Semiring a)
    ( x)
    ( n) =
    mul-Commutative-Semiring R (a n) (power-Commutative-Semiring R n x)
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 2]
```diff
@@ -0,0 +1,530 @@
...
+
+  zero-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R
+  zero-formal-power-series-Commutative-Semiring =
+    formal-power-series-coefficients-Commutative-Semiring
+      ( zero-Commutative-Semiring
+        ( commutative-semiring-convolution-sequence-Commutative-Semiring R))
+```
+
+### The one formal power series
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
### The formal power series with all coefficients equal to one
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 3]
```diff
@@ -0,0 +1,530 @@
...
+  abstract
+    left-zero-law-mul-formal-power-series-Commutative-Semiring :
+      (x : formal-power-series-Commutative-Semiring R) →
+      mul-formal-power-series-Commutative-Semiring R
+        ( zero-formal-power-series-Commutative-Semiring R)
+        ( x) ＝
+      zero-formal-power-series-Commutative-Semiring R
+    left-zero-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      =
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ( formal-power-series-coefficients-Commutative-Semiring x) =
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 4]
```diff
@@ -0,0 +1,530 @@
...
+
+    right-unit-law-mul-formal-power-series-Commutative-Semiring :
+      (x : formal-power-series-Commutative-Semiring R) →
+      mul-formal-power-series-Commutative-Semiring R
+        ( x)
+        ( one-formal-power-series-Commutative-Semiring R) ＝
+      x
+    right-unit-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      =
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ( formal-power-series-coefficients-Commutative-Semiring x) =
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 5]
```diff
@@ -0,0 +1,530 @@
...
+  abstract
+    left-unit-law-mul-formal-power-series-Commutative-Semiring :
+      (x : formal-power-series-Commutative-Semiring R) →
+      mul-formal-power-series-Commutative-Semiring R
+        ( one-formal-power-series-Commutative-Semiring R)
+        ( x) ＝
+      x
+    left-unit-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      =
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ( formal-power-series-coefficients-Commutative-Semiring x) =
```

Comment (fredrik-bakke) [reply src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]: you get the picture

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]: Nevermind, I misread.

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 6]
```diff
@@ -0,0 +1,530 @@
...
+        ( inv-equiv (equiv-formal-power-series-sequence-Commutative-Semiring R))
+        ( is-set-type-Π-Set' _ (λ _ → set-Commutative-Semiring R))
+
+  set-formal-power-series-Commutative-Semiring : Set l
+  set-formal-power-series-Commutative-Semiring =
+    ( formal-power-series-Commutative-Semiring R ,
+      is-set-formal-power-series-Commutative-Semiring)
+```
+
+### The zero formal power series
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
### The constant zero formal power series
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
### The constant one formal power series
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 7]
```diff
@@ -0,0 +1,666 @@
...
+
+  is-polynomial-formal-power-series-polynomial-Commutative-Semiring :
+    is-polynomial-formal-power-series-Commutative-Semiring
+      ( formal-power-series-polynomial-Commutative-Semiring)
+  is-polynomial-formal-power-series-polynomial-Commutative-Semiring = pr2 p
+```
+
+## Properties
+
+### The zero polynomial
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
### The constant zero polynomial
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 8]
```diff
@@ -0,0 +1,666 @@
...
+
+  zero-polynomial-Commutative-Semiring : polynomial-Commutative-Semiring R
+  zero-polynomial-Commutative-Semiring =
+    polynomial-add-degree-formal-power-series-Commutative-Semiring
+      ( zero-formal-power-series-Commutative-Semiring R)
+      ( zero-ℕ)
+      ( λ _ → refl)
+```
+
+### The one polynomial
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
### The constant one polynomial
```

**Comment by fredrik-bakke** [comment]
This PR doesn't currently type check. I'll mark it as a draft until it is ready for review.

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 9]
```diff
@@ -0,0 +1,518 @@
...
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y)
+      ( formal-power-series-coefficients-Commutative-Semiring z) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( associative-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y)
+            ( z))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]: Sorry, I didn't notice this before, but the following code is indented one level too much.
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( associative-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y)
          ( z))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 10]
```diff
@@ -0,0 +1,518 @@
...
+      add-formal-power-series-Commutative-Semiring y x
+    commutative-add-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( commutative-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( commutative-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 11]
```diff
@@ -0,0 +1,518 @@
...
+        ( zero-formal-power-series-Commutative-Semiring R)
+        ( x) ＝
+      x
+    left-unit-law-add-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( left-unit-law-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( left-unit-law-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 12]
```diff
@@ -0,0 +1,518 @@
...
+        ( x)
+        ( zero-formal-power-series-Commutative-Semiring R) ＝
+      x
+    right-unit-law-add-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( right-unit-law-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( right-unit-law-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 13]
```diff
@@ -0,0 +1,518 @@
...
+  {l : Level} {R : Commutative-Semiring l}
+  where
+
+  mul-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R →
+    formal-power-series-Commutative-Semiring R →
+    formal-power-series-Commutative-Semiring R
+  mul-formal-power-series-Commutative-Semiring
+    (formal-power-series-coefficients-Commutative-Semiring x)
+    (formal-power-series-coefficients-Commutative-Semiring y) =
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
    ( formal-power-series-coefficients-Commutative-Semiring x)
    ( formal-power-series-coefficients-Commutative-Semiring y) =
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 14]
```diff
@@ -0,0 +1,518 @@
...
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y)
+      ( formal-power-series-coefficients-Commutative-Semiring z) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( associative-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y)
+            ( z))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( associative-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y)
          ( z))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 15]
```diff
@@ -0,0 +1,518 @@
...
+      mul-formal-power-series-Commutative-Semiring y x
+    commutative-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( commutative-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( commutative-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 16]
```diff
@@ -0,0 +1,518 @@
...
+        ( one-formal-power-series-Commutative-Semiring R)
+        ( x) ＝
+      x
+    left-unit-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( left-unit-law-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( left-unit-law-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 17]
```diff
@@ -0,0 +1,518 @@
...
+        ( x)
+        ( one-formal-power-series-Commutative-Semiring R) ＝
+      x
+    right-unit-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( right-unit-law-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( right-unit-law-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 18]
```diff
@@ -0,0 +1,518 @@
...
+        ( zero-formal-power-series-Commutative-Semiring R)
+        ( x) ＝
+      zero-formal-power-series-Commutative-Semiring R
+    left-zero-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( left-zero-law-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( left-zero-law-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 19]
```diff
@@ -0,0 +1,518 @@
...
+        ( x)
+        ( zero-formal-power-series-Commutative-Semiring R) ＝
+      zero-formal-power-series-Commutative-Semiring R
+    right-zero-law-mul-formal-power-series-Commutative-Semiring
+      ( formal-power-series-coefficients-Commutative-Semiring x) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( right-zero-law-mul-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( right-zero-law-mul-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 20]
```diff
@@ -0,0 +1,518 @@
...
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y)
+      ( formal-power-series-coefficients-Commutative-Semiring z) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( left-distributive-mul-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y)
+            ( z))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( left-distributive-mul-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y)
          ( z))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 21]
```diff
@@ -0,0 +1,518 @@
...
+      ( formal-power-series-coefficients-Commutative-Semiring x)
+      ( formal-power-series-coefficients-Commutative-Semiring y)
+      ( formal-power-series-coefficients-Commutative-Semiring z) =
+        ap
+          ( formal-power-series-coefficients-Commutative-Semiring)
+          ( right-distributive-mul-add-Commutative-Semiring
+            ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
+            ( x)
+            ( y)
+            ( z))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]:
```suggestion
      ap
        ( formal-power-series-coefficients-Commutative-Semiring)
        ( right-distributive-mul-add-Commutative-Semiring
          ( commutative-semiring-convolution-sequence-Commutative-Semiring R)
          ( x)
          ( y)
          ( z))
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 22]
```diff
@@ -0,0 +1,660 @@
...
+
+  is-degree-bound-prop-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R → ℕ → Prop l
+  is-degree-bound-prop-formal-power-series-Commutative-Semiring
+    ( formal-power-series-coefficients-Commutative-Semiring a)
+    ( N) =
+      Π-Prop
+        ( ℕ)
+        ( λ n →
+          hom-Prop (leq-ℕ-Prop N n) (is-zero-prop-Commutative-Semiring R (a n)))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
    Π-Prop
      ( ℕ)
      ( λ n →
        hom-Prop (leq-ℕ-Prop N n) (is-zero-prop-Commutative-Semiring R (a n)))
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 23]
```diff
@@ -0,0 +1,660 @@
...
+  is-degree-bound-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R → ℕ → UU l
+  is-degree-bound-formal-power-series-Commutative-Semiring p n =
+    type-Prop
+      ( is-degree-bound-prop-formal-power-series-Commutative-Semiring p n)
+
+  is-polynomial-prop-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R → Prop l
+  is-polynomial-prop-formal-power-series-Commutative-Semiring a =
+      ∃ ℕ (is-degree-bound-prop-formal-power-series-Commutative-Semiring a)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
    ∃ ℕ (is-degree-bound-prop-formal-power-series-Commutative-Semiring a)
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 24]
```diff
@@ -0,0 +1,660 @@
...
+        ( coefficient-formal-power-series-Commutative-Semiring p (n +ℕ N))) →
+    polynomial-Commutative-Semiring R
+  polynomial-add-degree-formal-power-series-Commutative-Semiring
+    ( formal-power-series-coefficients-Commutative-Semiring p) N H =
+      ( formal-power-series-coefficients-Commutative-Semiring p ,
+        intro-exists
+          ( N)
+          ( λ n N≤n →
+            let (m , m+N=n) = subtraction-leq-ℕ N n N≤n
+            in tr (is-zero-Commutative-Semiring R ∘ p) m+N=n (H m)))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
    ( formal-power-series-coefficients-Commutative-Semiring p ,
      intro-exists
        ( N)
        ( λ n N≤n →
          let (m , m+N=n) = subtraction-leq-ℕ N n N≤n
          in tr (is-zero-Commutative-Semiring R ∘ p) m+N=n (H m)))
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 25]
```diff
@@ -0,0 +1,660 @@
...
+        Σ ℕ (is-degree-bound-formal-power-series-Commutative-Semiring p)) →
+      ev-degree-bound-formal-power-series-Commutative-Semiring p x b1 ＝
+      ev-degree-bound-formal-power-series-Commutative-Semiring p x b2
+    eq-ev-degree-bound-formal-power-series-Commutative-Semiring
+      p@(formal-power-series-coefficients-Commutative-Semiring c) x
+      (N₁ , N₁≤n→pn=0) (N₂ , N₂≤n→pn=0) =
+        rec-coproduct
+          ( λ N₁≤N₂ → inv (case N₁ N₁≤n→pn=0 N₂ N₂≤n→pn=0 N₁≤N₂))
+          ( λ N₂≤N₁ → case N₂ N₂≤n→pn=0 N₁ N₁≤n→pn=0 N₂≤N₁)
+          ( linear-leq-ℕ N₁ N₂)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      rec-coproduct
        ( λ N₁≤N₂ → inv (case N₁ N₁≤n→pn=0 N₂ N₂≤n→pn=0 N₁≤N₂))
        ( λ N₂≤N₁ → case N₂ N₂≤n→pn=0 N₁ N₁≤n→pn=0 N₂≤N₁)
        ( linear-leq-ℕ N₁ N₂)
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 26]
```diff
@@ -0,0 +1,660 @@
...
+          k (inr n≤k) → zero-Commutative-Semiring R
+        deg-bound-d : (k : ℕ) → (H : le-ℕ k n + leq-ℕ n k) → leq-ℕ n k →
+          is-zero-Commutative-Semiring R (d k H)
+        deg-bound-d = λ where
+          k (inl k<n) n≤k → ex-falso (contradiction-le-ℕ k n k<n n≤k)
+          k (inr _) _ → refl
+      in
+        ( formal-power-series-coefficients-Commutative-Semiring
+          ( λ k → d k (decide-le-leq-ℕ k n)) ,
+          intro-exists n (λ k n≤k → deg-bound-d k (decide-le-leq-ℕ k n) n≤k))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
    let
      d : (k : ℕ) → (le-ℕ k n + leq-ℕ n k) → type-Commutative-Semiring R
      d = λ where
        k (inl k<n) → c k
        k (inr n≤k) → zero-Commutative-Semiring R
      deg-bound-d : (k : ℕ) → (H : le-ℕ k n + leq-ℕ n k) → leq-ℕ n k →
        is-zero-Commutative-Semiring R (d k H)
      deg-bound-d = λ where
        k (inl k<n) n≤k → ex-falso (contradiction-le-ℕ k n k<n n≤k)
        k (inr _) _ → refl
    in
      ( formal-power-series-coefficients-Commutative-Semiring
        ( λ k → d k (decide-le-leq-ℕ k n)) ,
        intro-exists n (λ k n≤k → deg-bound-d k (decide-le-leq-ℕ k n) n≤k))
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 27]
```diff
@@ -0,0 +1,660 @@
...
+          case r Nr Hr Nr≤N n N≤n = Hr n (transitive-leq-ℕ Nr N n N≤n Nr≤N)
+        in
+          ( N ,
+            case p Np Hp (left-leq-max-ℕ Np Nq) ,
+            case q Nq Hq (right-leq-max-ℕ Np Nq) ,
+            λ n N≤n →
+              ap-add-Commutative-Semiring R
+                ( case p Np Hp (left-leq-max-ℕ Np Nq) n N≤n)
+                ( case q Nq Hq (right-leq-max-ℕ Np Nq) n N≤n) ∙
+              left-unit-law-add-Commutative-Semiring R _)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      let
        N = max-ℕ Np Nq
        case r Nr Hr Nr≤N n N≤n = Hr n (transitive-leq-ℕ Nr N n N≤n Nr≤N)
      in
        ( N ,
          case p Np Hp (left-leq-max-ℕ Np Nq) ,
          case q Nq Hq (right-leq-max-ℕ Np Nq) ,
          λ n N≤n →
            ap-add-Commutative-Semiring R
              ( case p Np Hp (left-leq-max-ℕ Np Nq) n N≤n)
              ( case q Nq Hq (right-leq-max-ℕ Np Nq) n N≤n) ∙
            left-unit-law-add-Commutative-Semiring R _)
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 28]
```diff
@@ -0,0 +1,660 @@
...
+          (Np , Hp) ← is-poly-p
+          (Nq , Hq) ← is-poly-q
+          let
+            (N , _ , _ , H) =
+              degree-bound-add-formal-power-series-Commutative-Semiring
+                ( p)
+                ( q)
+                ( Np , Hp)
+                ( Nq , Hq)
+          intro-exists N H
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      let
        open
          do-syntax-trunc-Prop
            ( is-polynomial-prop-formal-power-series-Commutative-Semiring _)
      in do
        (Np , Hp) ← is-poly-p
        (Nq , Hq) ← is-poly-q
        let
          (N , _ , _ , H) =
            degree-bound-add-formal-power-series-Commutative-Semiring
              ( p)
              ( q)
              ( Np , Hp)
              ( Nq , Hq)
        intro-exists N H
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 29]
```diff
@@ -0,0 +1,660 @@
...
+                      ( pp)
+                      ( x)
+                      ( N)
+                      ( Hp')))
+                  ( inv
+                    ( eq-ev-polynomial-degree-bound-Commutative-Semiring
+                      ( qq)
+                      ( x)
+                      ( N)
+                      ( Hq')))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      let
        open
          do-syntax-trunc-Prop
            ( Id-Prop
              ( set-Commutative-Semiring R)
              ( ev-polynomial-Commutative-Semiring
                ( add-polynomial-Commutative-Semiring pp qq)
                ( x))
              ( add-Commutative-Semiring R
                ( ev-polynomial-Commutative-Semiring pp x)
                ( ev-polynomial-Commutative-Semiring qq x)))
      in do
        (Np , Hp) ← is-poly-p
        (Nq , Hq) ← is-poly-q
        let
          (N , Hp' , Hq' , H) =
            degree-bound-add-formal-power-series-Commutative-Semiring
              ( p)
              ( q)
              ( Np , Hp)
              ( Nq , Hq)
        equational-reasoning
          ev-polynomial-Commutative-Semiring
            ( add-polynomial-Commutative-Semiring pp qq)
            ( x)
          ＝
            ev-degree-bound-formal-power-series-Commutative-Semiring
              ( add-formal-power-series-Commutative-Semiring p q)
              ( x)
              ( N , H)
            by
              eq-ev-polynomial-degree-bound-Commutative-Semiring _ x N H
          ＝
            sum-fin-sequence-type-Commutative-Semiring R N
              ( λ i → add-Commutative-Semiring R _ _)
            by
              htpy-sum-fin-sequence-type-Commutative-Semiring R N
                ( λ i →
                  right-distributive-mul-add-Commutative-Semiring R _ _ _)
          ＝
            add-Commutative-Semiring R
              ( ev-degree-bound-formal-power-series-Commutative-Semiring
                ( p)
                ( x)
                ( N , Hp'))
              ( ev-degree-bound-formal-power-series-Commutative-Semiring
                ( q)
                ( x)
                ( N , Hq'))
            by
              inv
                ( interchange-add-sum-fin-sequence-type-Commutative-Semiring
                  ( R)
                  ( N)
                  ( _)
                  ( _))
          ＝
            add-Commutative-Semiring R
              ( ev-polynomial-Commutative-Semiring pp x)
              ( ev-polynomial-Commutative-Semiring qq x)
            by
              ap-add-Commutative-Semiring R
                ( inv
                  ( eq-ev-polynomial-degree-bound-Commutative-Semiring
                    ( pp)
                    ( x)
                    ( N)
                    ( Hp')))
                ( inv
                  ( eq-ev-polynomial-degree-bound-Commutative-Semiring
                    ( qq)
                    ( x)
                    ( N)
                    ( Hq')))
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 30]
```diff
@@ -0,0 +1,660 @@
...
+                              ap-mul-Commutative-Semiring R refl (Hq j Nq≤j) ∙
+                              right-zero-law-mul-Commutative-Semiring R _)
+                            ( decide-le-leq-ℕ j Nq))
+                        ( λ Np≤i →
+                          ap-mul-Commutative-Semiring R (Hp i Np≤i) refl ∙
+                          left-zero-law-mul-Commutative-Semiring R _)
+                        ( decide-le-leq-ℕ i Np))
+            ＝
+              zero-Commutative-Semiring R
+              by sum-zero-finite-Commutative-Semiring R _)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
    ( Nq +ℕ Np ,
      λ n Nq+Np≤n →
        equational-reasoning
          sum-finite-Commutative-Semiring R
            ( finite-type-binary-sum-decomposition-ℕ n)
            ( λ (i , j , j+i=n) → mul-Commutative-Semiring R (p i) (q j))
          ＝
            sum-finite-Commutative-Semiring R
              ( finite-type-binary-sum-decomposition-ℕ n)
              ( λ _ → zero-Commutative-Semiring R)
            by
              htpy-sum-finite-Commutative-Semiring R _
                ( λ (i , j , j+i=n) →
                  rec-coproduct
                    ( λ i<Np →
                      rec-coproduct
                        ( λ j<Nq →
                          ex-falso
                            ( anti-reflexive-le-ℕ
                              ( n)
                              ( tr
                                ( λ m → le-ℕ m n)
                                ( j+i=n)
                                ( concatenate-le-leq-ℕ
                                  ( preserves-le-add-ℕ j<Nq i<Np)
                                  ( Nq+Np≤n)))))
                        ( λ Nq≤j →
                          ap-mul-Commutative-Semiring R refl (Hq j Nq≤j) ∙
                          right-zero-law-mul-Commutative-Semiring R _)
                        ( decide-le-leq-ℕ j Nq))
                    ( λ Np≤i →
                      ap-mul-Commutative-Semiring R (Hp i Np≤i) refl ∙
                      left-zero-law-mul-Commutative-Semiring R _)
                    ( decide-le-leq-ℕ i Np))
          ＝
            zero-Commutative-Semiring R
            by sum-zero-finite-Commutative-Semiring R _)
```

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 31]
```diff
@@ -0,0 +1,660 @@
...
+                ( mul-formal-power-series-Commutative-Semiring p q))
+        in do
+          (Np , Hp) ← is-poly-p
+          (Nq , Hq) ← is-poly-q
+          unit-trunc-Prop
+            ( degree-bound-mul-formal-power-series-Commutative-Semiring
+              ( p)
+              ( q)
+              ( Np , Hp)
+              ( Nq , Hq))
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      let
        open
          do-syntax-trunc-Prop
            ( is-polynomial-prop-formal-power-series-Commutative-Semiring
              ( mul-formal-power-series-Commutative-Semiring p q))
      in do
        (Np , Hp) ← is-poly-p
        (Nq , Hq) ← is-poly-q
        unit-trunc-Prop
          ( degree-bound-mul-formal-power-series-Commutative-Semiring
            ( p)
            ( q)
            ( Np , Hp)
            ( Nq , Hq))
```

File: src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md [hunk 32]
```diff
@@ -0,0 +1,518 @@
...
+module _
+  {l : Level} {R : Commutative-Semiring l}
+  where
+
+  add-formal-power-series-Commutative-Semiring :
+    formal-power-series-Commutative-Semiring R →
+    formal-power-series-Commutative-Semiring R →
+    formal-power-series-Commutative-Semiring R
+  add-formal-power-series-Commutative-Semiring
+    (formal-power-series-coefficients-Commutative-Semiring x)
```
Comment (VojtechStep) [inline src/commutative-algebra/formal-power-series-commutative-semirings.lagda.md]: This is more of an aesthetic thing to ponder: I think some of the definitions, and this one in particular, would look more "balanced" if instead of pattern matching on the arguments and using the inner sequence in the body, you'd keep the `x` and `y` as power series, and then applied the projections in the body. Since the records have eta, this doesn't change the computational behavior, but you could keep the argument list on one line

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md (hunk 30 above)
Comment (VojtechStep) [reply src/commutative-algebra/polynomials-commutative-semirings.lagda.md]: There's still an extra offset for "by"

Comment (fredrik-bakke) [reply src/commutative-algebra/polynomials-commutative-semirings.lagda.md]: thanks, edited

File: src/commutative-algebra/polynomials-commutative-semirings.lagda.md [hunk 33]
```diff
@@ -0,0 +1,660 @@
...
+                          ap-mul-Commutative-Semiring R refl (Hq j Nq≤j) ∙
+                          right-zero-law-mul-Commutative-Semiring R _)
+                        ( decide-le-leq-ℕ j Nq))
+                    ( λ Np≤i →
+                      ap-mul-Commutative-Semiring R (Hp i Np≤i) refl ∙
+                      left-zero-law-mul-Commutative-Semiring R _)
+                    ( decide-le-leq-ℕ i Np))
+          ＝
+            zero-Commutative-Semiring R
+            by sum-zero-finite-Commutative-Semiring R _)
```
Comment (fredrik-bakke) [inline src/commutative-algebra/polynomials-commutative-semirings.lagda.md]:
```suggestion
      equational-reasoning
        sum-finite-Commutative-Semiring R
          ( finite-type-binary-sum-decomposition-ℕ n)
          ( λ (i , j , j+i=n) → mul-Commutative-Semiring R (p i) (q j))
        ＝
          sum-finite-Commutative-Semiring R
            ( finite-type-binary-sum-decomposition-ℕ n)
            ( λ _ → zero-Commutative-Semiring R)
          by
            htpy-sum-finite-Commutative-Semiring R _
              ( λ (i , j , j+i=n) →
                rec-coproduct
                  ( λ i<Np →
                    rec-coproduct
                      ( λ j<Nq →
                        ex-falso
                          ( anti-reflexive-le-ℕ
                            ( n)
                            ( tr
                              ( λ m → le-ℕ m n)
                              ( j+i=n)
                              ( concatenate-le-leq-ℕ
                                ( preserves-le-add-ℕ j<Nq i<Np)
                                ( Nq+Np≤n)))))
                      ( λ Nq≤j →
                        ap-mul-Commutative-Semiring R refl (Hq j Nq≤j) ∙
                        right-zero-law-mul-Commutative-Semiring R _)
                      ( decide-le-leq-ℕ j Nq))
                  ( λ Np≤i →
                    ap-mul-Commutative-Semiring R (Hp i Np≤i) refl ∙
                    left-zero-law-mul-Commutative-Semiring R _)
                  ( decide-le-leq-ℕ i Np))
        ＝
          zero-Commutative-Semiring R
          by sum-zero-finite-Commutative-Semiring R _)
```

**Comment by fredrik-bakke** [comment]
Checks pass 📈
